US08957080B2
Into a 100 mL, round-bottom flask, was placed a solution of 3-[4-(2,3-difluorophenoxy)phenyl]-1-[(2R)-pyrrolidin-2-ylmethyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine bis(trifluoroacetic acid) salt (200 mg, 0.31 mmol, 1.00 equiv) in dichloromethane (10 mL), CDI (324 mg, 2.00 mmol, 6.50 equiv), and 2-cyanoacetic acid (170 mg, 2.00 mmol, 6.50 equiv). The resulting solution was stirred for 12 h at 25° C. and the resulting mixture was washed with water and brine. The organics were dried over anhydrous magnesium sulfate and concentrated under vacuum. The residue was loaded onto a silica gel column and eluted with dichloromethane/methanol (20/1) to give 109 mg (72%) of 3-[(2R)-2-([4-amino-3-[4-(2,3-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidin-1-yl]-3-oxopropanenitrile as a white solid.

reactant | 3-[4-(2,3-difluorophenoxy)phenyl]-1-[(2R)-pyrrolidin-2-ylmethyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine bis(trifluoroacetic acid) salt | 0.31 mmol, 200 mg, 1.00 equiv | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.FC1=C(OC2=CC=C(C=C2)C2=NN(C3=NC=NC(=C32)N)C[C@@H]3NCCC3)C=CC=C1F
reactant | CDI | 2.00 mmol, 324 mg, 6.50 equiv | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-cyanoacetic acid | 2.00 mmol, 170 mg, 6.50 equiv | C(#N)CC(=O)O | C3H3NO2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-[(2R)-2-([4-amino-3-[4-(2,3-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidin-1-yl]-3-oxopropanenitrile | 109 mg, 72% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=C(C(=CC=C2)F)F)C[C@@H]2N(CCC2)C(CC#N)=O | C25H21F2N7O2
